US07825256B2
2-(2-Imidazol-1-yl-6-methyl-pyrimidin-4-yl)-1-methyl-pyrrolidine-3-carboxylic acid (31.9 mg, 0.111 mmol) was dissolved in DMF (1 mL). Next, the HBTU (64.0 mg, 0.167 mmol) was added. The reaction was stirred at room temperature for 30 minutes prior to addition of 3,4-methylenedioxyphenethyl amine hydrochloride (22.4 mg, 0.111 mmol) and triethylamine (50 μL). The reaction was stirred at rt for 12 h then heated to 60° C. for 16 h. After this period, the reaction mixture was transferred to a separatory funnel with ethyl acetate (20 mL). The organic layer was washed with sat. NaHCO3 (aq) (30 mL) and H2O (30 mL). The aqueous layers were back extracted with ethyl acetate (25 mL) and all of the organic portions were combined, dried over Na2SO4 and concentrated down under vacuum. The material was purified by Flash Chromatography (10 g, 0-10% methanol/DCM gradient) to afford 2-(2-imidazol-1-yl-6-methyl-pyrimidin-4-yl)-1-methyl-pyrrolidine-3-carboxylic acid (2-benzo[1,3]dioxol-5-yl-ethyl)-amide. Product isolated as a mixture of diasteromers; [M+H]+ 435.63.

reactant | 2-(2-Imidazol-1-yl-6-methyl-pyrimidin-4-yl)-1-methyl-pyrrolidine-3-carboxylic acid | 0.111 mmol, 31.9 mg | N1(C=NC=C1)C1=NC(=CC(=N1)C1N(CCC1C(=O)O)C)C | C14H17N5O2
reactant | HBTU | 0.167 mmol, 64.0 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3,4-methylenedioxyphenethyl amine hydrochloride | 0.111 mmol, 22.4 mg | Cl.C1OC=2C=C(CCN)C=CC2O1
reactant | triethylamine | 50 μL | C(C)N(CC)CC | C6H15N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 2-(2-imidazol-1-yl-6-methyl-pyrimidin-4-yl)-1-methyl-pyrrolidine-3-carboxylic acid (2-benzo[1,3]dioxol-5-yl-ethyl)-amide | O1COC2=C1C=CC(=C2)CCNC(=O)C2C(N(CC2)C)C2=NC(=NC(=C2)C)N2C=NC=C2 | C23H26N6O3
